US04596819
[S-(R*,R*)]-N,N-Bis[4-methyl-2-[[(phenylmethoxy)carbonyl]amino]pentyl]glycine, 1,1-dimethylethyl ester
A refluxing solution of 15.1 g (a 10% excess) of glycine t-butyl ester in 200 ml of absolute ethanol is treated dropwise over one hour with a solution of 24.2 g of (S)-2-(2-methylpropyl)-1-aziridinecarboxylic acid, phenylmethyl ester in 50 ml of absolute ethanol. The refluxing is continued over two nights. The solvent is removed under reduced pressure and the residue chromatographed on 1.5 kg of silica gel, eluting with chloroform/ethylacetate (3:1). Combining the fractions containing the faster eluting compound gives 14.3 g of an oil which crystallizes on standing. A small example, recrystallized from hexane has mp 107°-108°, [α]D23 -16.3° (c 1.03, methanol). Spectral and elemental analysis shows this to be [S-(R*,R*)]-N,N-bis[4-methyl-2-[[(phenylmethoxy)carbonyl]amino]pentyl]glycine, 1,1-dimethylethyl ester.

reactant | glycine t-butyl ester | C(C)(C)(C)OC(CN)=O | C6H13NO2
reactant | (S)-2-(2-methylpropyl)-1-aziridinecarboxylic acid, phenylmethyl ester | 24.2 g | CC(CC1[N@](C1)C(=O)OCC1=CC=CC=C1)C | C14H19NO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N,N-Bis[4-methyl-2-[[(phenylmethoxy)carbonyl]amino]pentyl]glycine, 1,1-dimethylethyl ester | 14.3 g | CC(CC(CN(CC(=O)OC(C)(C)C)CC(CC(C)C)NC(=O)OCC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)C | C34H51N3O6
